US04207234
3-(2-Phenylacetamido)-2-azetidinone (816 mg.) and benzyl 2-bromo-2-phenylacetate (1.22 g.) were dissolved in N,N-dimethylformamide (20 ml.), and to the solution was added sodium hydride (50% oily) (210 mg.) in nitrogen atmosphere under ice-cooling while stirring, and then the reaction mixture was stirred for an hour at the same temperature. Ethyl acetate (150 ml.) was added to the reaction mixture, and the solution was washed with water, a sodium bicarbonate-saturated-aqueous solution and water respectively, and then dried over anhydrous magnesium sulfate. The solution was evaporated to dryness under reduced pressure to give the yellow oily material (1.7 g.). The material was subjected to column chromatography using silica.gel (developer: chloroform) to give two isomers of 1-(α-benzyloxycarbonylbenzyl)-3-(2-phenyl)acetamido-2-azetidinone. Yield of the isomer A is 26 mg. and it of the isomer B is 65 mg.

reactant | 3-(2-Phenylacetamido)-2-azetidinone | 816 mg | C1(=CC=CC=C1)CC(=O)NC1C(NC1)=O | C11H12N2O2
reactant | benzyl 2-bromo-2-phenylacetate | 1.22 g | BrC(C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C15H13BrO2
reactant | sodium hydride | 210 mg | [H-].[Na+]
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(α-benzyloxycarbonylbenzyl)-3-(2-phenyl)acetamido-2-azetidinone | C(C1=CC=CC=C1)OC(=O)C(C1=CC=CC=C1)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C26H24N2O4
